US06894050B2
Preparation of Intermediate 6′-[Acetyl-(3-chloro-benzyl)-amino]-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (I-5c)
To a solution of 6′-acetylamino-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester I-5b (36.9 mg, 0.11 mmol) and 1-bromomethyl-3-chloro-benzene (15.8 μL, 0.12 mmol) in DMF (1.1 mL) at room temperature was added 60% NaH in mineral oil (5 mg, 0.13 mmol). After stirring at room temperature for 4 h, the reaction mixture was poured into H2O (10 mL) and extracted with ethyl acetate (50 mL). The organic layer was washed with H2O (3×10 mL), brine, dried (Na2SO4), filtered, and evaporated to dryness. The crude material was purified by preparative TLC using 50% ethyl acetate/ether with 1% NH4OH to afford the title compound I-5c (27.1 mg).

reactant | 6′-acetylamino-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 0.11 mmol, 36.9 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)NC(C)=O | C15H23N5O3
reactant | 1-bromomethyl-3-chloro-benzene | 0.12 mmol, 15.8 μL | BrCC1=CC(=CC=C1)Cl | C7H6BrCl
reactant | NaH | [H-].[Na+]
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 1.1 mL | CN(C)C=O | C3H7NO
product | 6′-[Acetyl-(3-chloro-benzyl)-amino]-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)N(CC1=CC(=CC=C1)Cl)C(C)=O | C22H28ClN5O3
